US08183275B2
A mixture of 3-(4-bromophenyl)propanol (8.15 g, 37.9 mmol), potassium acetate (11.2 g, 113.7 mmol), bis(pinacolato)diboron (10.6 g, 41.7 mmol), dimethyl sulfoxide (150 mL) and 1,1′-bis(diphenyl-phosphino) ferroncene-palladium dichloride dichloromethane complex (1:1) (1.55 g, 1.89 mmol) was heated at 80° C. under nitrogen overnight. Upon cooling, the reaction mixture was poured into water (˜300 mL), and the product was extracted with Et2O-hexanes (1:1) (3×300 mL). The combined organic extracts were washed with water (˜300 mL), brine, dried (Na2SO4) and concentrated to afford 3-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]propanol, which was used without further purification.

reactant | 3-(4-bromophenyl)propanol | 37.9 mmol, 8.15 g | BrC1=CC=C(C=C1)CCCO | C9H11BrO
reactant | potassium acetate | 113.7 mmol, 11.2 g | C(C)(=O)[O-].[K+]
reactant | bis(pinacolato)diboron | 41.7 mmol, 10.6 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | dimethyl sulfoxide | 150 mL | CS(=O)C | C2H6OS
solvent | water | ˜300 mL | O | H2O
product | 3-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]propanol | CC1(OB(OC1(C)C)C1=CC=C(C=C1)CCCO)C | C15H23BO3
